US08912169B2
Step 3: Synthesis of {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid benzyl ester
Triethylamine (1.1 mL, 7.89 mmol) and di-tert-butyl dicarbonate (1.22 g, 5.59 mmol) were added to a solution of [4-(2-tert-Butoxycarbonylamino-ethylamino)-1-hydroxy-cyclohexyl]-acetic acid benzyl ester (1.89 g, 4.65 mmol) in DCM (46 mL) under argon. The reaction was stirred at RT for 17 hr. The reaction was quenched with brine and extracted with DCM (2×). The combined organic layers were dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography on silica gel (0-75% EtOAc:Hexane). ESI-MS m/z 507 (MH)+.

reactant | Triethylamine | 7.89 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.59 mmol, 1.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | [4-(2-tert-Butoxycarbonylamino-ethylamino)-1-hydroxy-cyclohexyl]-acetic acid benzyl ester | 4.65 mmol, 1.89 g | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)NCCNC(=O)OC(C)(C)C)O)=O | C22H34N2O5
solvent | DCM | 46 mL | C(Cl)Cl | CH2Cl2
product | {4-[tert-Butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-1-hydroxy-cyclohexyl}-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)N(CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O)=O | C27H42N2O7
